US06960575B2
Ethyl {(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazine-1-yl}acetate (Reference compound No. 50-1)
Under ice cooling, 60% sodium hydride (27.9 mg) is added to a solution of (3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazine (150 mg, Reference compound No. 49-1) in tetrahydrofuran (1 ml), and the mixture is stirred for 30 minutes. Ethyl bromoacetate (77 μl) is added to the mixture, then the temperature is raised to room temperature, and the whole is stirred for one hour. The reaction mixture is diluted with ethyl acetate, and a saturated aqueous ammonium chloride solution is added thereto. The diluted solution is washed with 0.1 N hydrochloric acid, a saturated aqueous sodium hydrogencarbonate solution and saturated brine successively and dried over anhydrous magnesium sulfate. The diluted solution is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled reference compound (195 mg).

reactant | sodium hydride | 27.9 mg | [H-].[Na+]
reactant | (3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazine | C(C)(=O)N1C(C(NC(=C1)C1=CC=CC=C1)=O)C(C)C | C15H18N2O2
reactant | Ethyl bromoacetate | 77 μl | BrCC(=O)OCC | C4H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl {(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazine-1-yl}acetate | 195 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)OCC)=O)C(C)C | C19H24N2O4
